US04523030
10.65 g of 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carbonitrile are suspended in a mixture of 100 ml of concentrated hydrochloric acid and 100 ml of acetic acid and stirring is carried out for 4 hours at 100°. The whole is left to cool to room temperature, filtered with suction, washed thoroughly with water, left to dry in the air and recrystallised from trichloromethane/hexane with the addition of a small amount of methanol. 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid is obtained having a melting point of 202°-203°.

reactant | 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carbonitrile | 10.65 g | ClC1=C(C(=O)C2=CC3=C(C(=C3)C#N)C=C2O)C(=CC=C1)Cl | C16H7Cl2NO2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid | ClC1=C(C(=O)C2=CC3=C(C(=C3)C(=O)O)C=C2O)C(=CC=C1)Cl | C16H8Cl2O4
